US08664401B2
3-(2-{[Tert-butyl(diphenyl)silyl]oxy}ethyl)cyclobutanol (3.58 g, 10.1 mmol) was dissolved in dry tetrahydrofuran (50 mL) and 2,3-dihydro-4H-pyran and 4-toluenesulfonic acid pyridine salt were added and the reaction was stirred at room temperature for 48 hours. The reaction was concentrated in vacuo and purified on silica gel with a heptane-ethyl acetate gradient (5% ethyl acetate, then 20% ethyl acetate) to give crude tert-butyl(diphenyl){2-[3-(tetrahydro-2H-pyran-2-yloxy)cyclobutyl]ethoxy}silane (4.66 g, 105%) as a milky oil. Partial 1H NMR indicated a ˜4:1 mix of unknown cis-trans isomers. (CDCl3, δ ppm, key peaks are 4.05 (m, 0.80H), 4.30 (m, 0.20H), 4.52 (m, 0.20H), 4.56 (m, 0.80H).

reactant | 3-(2-{[Tert-butyl(diphenyl)silyl]oxy}ethyl)cyclobutanol | 10.1 mmol, 3.58 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1CC(C1)O | C22H30O2Si
reactant | 2,3-dihydro-4H-pyran | O1CCCC=C1 | C5H8O
reactant | 4-toluenesulfonic acid pyridine salt | N1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-butyl(diphenyl){2-[3-(tetrahydro-2H-pyran-2-yloxy)cyclobutyl]ethoxy}silane | 4.66 g, 105% | C(C)(C)(C)[Si](OCCC1CC(C1)OC1OCCCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H38O3Si
